US05741908
Tetrazolo[1,5-a]quinolin-5-ol (10 g, 54 mmole, Example 1)was suspended in acetic acid (200 mL) then warmed to 40° C. Nitric acid (4 mL of 16M, 59 mmole) was added to the reaction mixture. The reaction mixture was heated at 80° C. for 30 minutes then allowed to cool to ambient temperature. The resulting precipitate was isolated by filtration, rinsed with water then recrystallized from isopropanol/water to provide 8.1 g of 4-nitrotetrazolo[1,5-a]quinolin-5-ol hydrate as light yellow plates, m.p. 186.5°-187° C. Analysis: Calculated for C9H5 N5O3.H2O: % C, 43.38; % H, 2.83; % N, 28.10; Found: % C, 43.27; % H, 2.84; % N, 28.25.

reactant | Tetrazolo[1,5-a]quinolin-5-ol | N1=NN=C2N1C1=CC=CC=C1C(=C2)O | C9H6N4O
reactant | Nitric acid | 59 mmole, 16M, 4 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 4-nitrotetrazolo[1,5-a]quinolin-5-ol hydrate | 8.1 g | O.[N+](=O)([O-])C=1C=2N(C3=CC=CC=C3C1O)N=NN2 | InChI=1S/C9H5N5O3.H2O/c15-8-5-3-1-2-4-6(5)13-9(10-11-12-13)7(8)14(16)17;/h1-4,15H;1H2
